US07282512B2
Preparation of [1-({[5-(4-chlorophenyl)-1-methyl-1H-imidazol-2-yl]sulfanyl}methyl)cyclobutyl]methanol
The title compound was prepared using the same experimental procedure as in example 19a from [1-(hydroxymethyl)cyclobutyl]methanol and 5-(4-chlorophenyl)-1-methyl-1H-imidazole-2-thiol. 1H NMR (300 MHz, CDCl3) δ 7.41-7.25 (m, 5H), 3.62 (s, 2H), 3.49 (s, 3H), 3.46 (s, 2H), 2.04-1.63 (m, 6H).

reactant | [1-(hydroxymethyl)cyclobutyl]methanol | OCC1(CCC1)CO | C6H12O2
reactant | 5-(4-chlorophenyl)-1-methyl-1H-imidazole-2-thiol | ClC1=CC=C(C=C1)C1=CN=C(N1C)S | C10H9ClN2S
product | [1-({[5-(4-chlorophenyl)-1-methyl-1H-imidazol-2-yl]sulfanyl}methyl)cyclobutyl]methanol | ClC1=CC=C(C=C1)C1=CN=C(N1C)SCC1(CCC1)CO | C16H19ClN2OS
